US08372823B2
1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-3-(4-(benzyloxy)phenyl)propane.
A solution of 5-(2-pyridyl)oxazole (Saikachi, H., et al. Chem. Pharm. Bull. 1969, 27, 793-796; 116 mg, 0.794 mmol) in anhydrous THF (4 mL) at −78° C. was treated dropwise with a solution of n-BuLi in hexanes (1.6 M, 0.64 mL, 0.953 mmol) under N2 and the resulting solution was stirred at −78° C. for 35 min. A solution of ZnCl2 in THF (0.5 M, 1.9 mL, 1.56 mmol) was added and the mixture was allowed to warm to 0° C. After stirring at 0° C. for 45 min, CuI (160 mg, 0.840 mmol) was added. After the mixture was stirred at 0° C. for 15 min, a solution of 3-(4-hydroxyphenyl)propanoyl chloride (1.2 equiv; prepared from 3-(4-(benzyloxy)phenyl)propanoic acid and oxalyl chloride) in anhydrous THF (1.5 mL) was added dropwise, and the mixture was stirred for an additional 1 h. The reaction mixture was quenched with addition of saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was filtered through diatomaceous earth, dried over anhydrous Na2SO4, filtered and evaporated to yield the crude product. Column chromatography (SiO2, 2.5×5 cm, 10-30% EtOAc-hexanes gradient) followed by PTLC (SiO2, 50% EtOAc-hexanes) afforded the title compound (33%) as a white solid: mp 99-100° C. 1H NMR (CDCl3, 400 MHz) 8.67 (app d, J=4.4 Hz, 1H), 7.88 (s, 1H), 7.87-7.85 (m, 1H), 7.81 (td, 1H, J=7.8, 1.8 Hz), 7.44 (d, 2H, J=7.0 Hz), 7.39 (t, 2H, J=7.5 Hz), 7.32 (t, 2H, J=6.8 Hz), 7.19 (d, 2H, J=8.5 Hz), 6.91 (d, 2H, J=8.5 Hz), 5.04 (s, 2H), 3.44 (t, 2H, J=7.4 Hz), 3.06 (t, 2H, J=7.4 Hz); 13C NMR (CDCl3, 100 MHz) 187.4, 157.2 (2C), 153.2, 150.1, 146.2, 137.1, 137.0, 132.7, 129.4, 128.5, 127.9, 127.4, 126.9, 124.2, 120.4, 114.9, 70.0, 40.9, 28.9; IR (film) νmax 3097, 2919, 1693, 1602, 1582, 1514, 1470, 1427, 1382, 1253, 1177, 1042, 963, 938, 785, 741, 697 cm−1; ESI-TOF m/z 385.1549 (C24H20N2O3+H+ requires 385.1547).

reactant | 5-(2-pyridyl)oxazole | 0.794 mmol, 116 mg | N1=C(C=CC=C1)C1=CN=CO1 | C8H6N2O
reactant | n-BuLi | [Li]CCCC
reactant | 3-(4-hydroxyphenyl)propanoyl chloride | 1.2 equiv | OC1=CC=C(C=C1)CCC(=O)Cl | C9H9ClO2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | THF | 1.56 mmol, 0.5 M, 1.9 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | CuI | 0.840 mmol, 160 mg | [Cu]I
product | 1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-3-(4-(benzyloxy)phenyl)propane | 33% | O=C(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C=1OC(=CN1)C1=NC=CC=C1 | C24H20N2O3
